US07064125B2
Synthesis of 6-Chloro-N-indan-5-yl-N′-phenyl-[1,3,5]triazine-2,4-diamine (CT-32099)
The reaction of 4,6-dichloro-N-phenyl-[1,3,5]triazine-2-amine with 5-aminoindan using the method described for the synthesis of CT-32028 provided CT-32099 (36 mg, 37% yield). 1H NMR (d6-DMSO) δ 10.15–10.28 (m, 2 H), 7.56–7.72 (m, 3 H), 7.05–7.39 (m, 5 H), 2.75–90 (m, 4 H), 1.94–2.09 (m, 2 H).

reactant | 4,6-dichloro-N-phenyl-[1,3,5]triazine-2-amine | ClC1=NC(=NC(=N1)Cl)NC1=CC=CC=C1 | C9H6Cl2N4
reactant | 5-aminoindan | NC=1C=C2CCCC2=CC1 | C9H11N
product | 6-Chloro-N-indan-5-yl-N′-phenyl-[1,3,5]triazine-2,4-diamine | 37% yield | ClC1=NC(=NC(=N1)NC=1C=C2CCCC2=CC1)NC1=CC=CC=C1 | C18H16ClN5
